Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
aspiration
 
Major Surgical or Invasive Procedure:
None during admission.

 
History of Present Illness:
___ y/o M w/ no PMHx who works in food service at ___
who presented initially to ___ with food impaction after 
a
small piece of roast beef got stuck going down.  Transferred to
___ for endoscopy. Underwent successful endoscopic removal. 
Per
GI fellow and ___ RN report, in the ___, the patient developed
tachypnea (RR ___, tachycardia, and mild hypoxia.  He underwent
a CXR that was concerning for aspiration pneumonitis (bibasilar
patchy opacities).

Reports he was in his usual state of health prior to this
incident.  He denies any PMHx, any active medical problems,
taking any prescription medications, OTCs, supplements, or
herbals.  He says he isn't currently feeling 100%, with 
sensation
of some difficulty swallowing, mild sore throat s/p endoscopy,
and feeling "a bit off" and some weakness when standing.  He
denies denies any current SOB, cough, sputum production, chest
tightness, abdominal pain, n/v/d/c, melena, BRBPR, dysuria, leg
swelling, joint pains, muscle aches, or other complaints.
 
Past Medical History:
Denies any PMHx
 
Social History:
___
Family History:
-Mother: healthy
-Father: recently diagnosed with DM type II
-Siblings: 2 brothers, 2 sisters - all are healthy
 
Physical Exam:
ADMISSION EXAM:
===============
VS: ___ 1420 Temp: 98.5 PO BP: 128/70 HR: 102 RR: 16 O2 
sat: 95%
O2 delivery: RA 
Gen: well-appearing young man laying in bed in NAD
HEENT: EOMI, anicteric, MMM, normal hearing, normal vocal
quality, no OP lesions
Neck: no LAD, normal ROM
Chest: bibasilar crackles are mild, though do not clear with
coughing; otherwise CTAB; normal WOB with no AMU
Cardiovasc: RR, no m/r/g, no peripheral edema, 2+ radial and DP
pulses, cap refill wnl
Abd: S, ND, NT, BS+ throughout
GU: no CVA tenderness to percussion
MSK: grossly normal strength, no joint swelling/redness in 
hands,
wrists, elbows, knees, or ankles 
Skin: no rashes, no jaundice
Neuro: AAOx4, clear speech, conversant
Psych: cooperative, calm, normal affect

DISCHARGE EXAM:
===============
98.8  BP 141 / 73  HR  98 18 96% on RA
GEN: young male in NAD
HEENT: MMM
CV: RRR no m appreciated
RESP: CTAB no w/r
ABD: ND, BS present, NTTP
GU no foley
EXTR no edema
NEURO: alert, appropriate
SKIN: no jaundice
 
Pertinent Results:
CXR PA/LAT:
IMPRESSION:  
Findings concerning for aspiration pneumonia at the lung bases. 

 
Brief Hospital Course:
# Aspiration pneumonitis: Observed overnight and pt did well. 
Tachycardia resolved. Pt denied any pulmonary or systemic 
symptoms to suggest that the initial aspiration pneumonitis had 
developed into pneumonia at this time.  Pt was given education 
and anticipatory guidance about warning signs of pneumonia.

# Food impaction: resolved s/p endoscopic retrieval. Patient 
understands he is to eat a soft diet until f/u EGD is done on 
___.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
None
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
# Aspiration pneumonitis
# Food impaction in esophagus

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted for observation after you had an aspiration 
event following the endoscopic removal of a food impaction in 
your esophagus.  You did well and are now ready for discharge.

Please continue drinking lots of fluids and eating a soft diet 
until you undergo the repeat EGD in 2 weeks.  Your EGD is 
scheduled for ___. Please see below for details.   

If you develop any fevers, shortness of breath or symptoms 
concerning to you after discharge, you can have Dr. ___ 
paged through the operator at ___ ___.   Otherwise, 
please follow up with your primary care next week.
 
Followup Instructions:
___